US07683079B2
((3S, 4R)-4-Amino-1-phenethyl-piperidine-3-yl)-thiazolidin-3-yl-methanone
This material was obtained as described in example 34 from the opposite enantiomer (3S, 4R)-4-amino-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester, thiazolidine and 2-(bromoethyl)-benzene. Yellow oil. MS (ESI): 320.4 (MH+).

reactant | (3S, 4R)-4-amino-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | COC(=O)[C@H]1CN(CC[C@H]1N)C(=O)OC(C)(C)C | C12H22N2O4
reactant | thiazolidine | S1CNCC1 | C3H7NS
reactant | 2-(bromoethyl)-benzene | BrCCC1=CC=CC=C1 | C8H9Br
product | ((3S, 4R)-4-Amino-1-phenethyl-piperidine-3-yl)-thiazolidin-3-yl-methanone | N[C@H]1[C@H](CN(CC1)CCC1=CC=CC=C1)C(=O)N1CSCC1 | C17H25N3OS
